US08278341B2
N-((1H-indol-3-yl)methyl)-3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine
To a solution of 3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine (1 equiv) in 1,2-dichloroethane (10 mL/mmol), under an atmosphere of argon, was added 1H-indole-3-carbaldehyde (1 equiv), NaBH(OAc)3 (2 equiv), and then HOAc (2-3 equiv). The resulting mixture was stirred at RT overnight, and then partitioned between dichloromethane and 2 M Na2CO3. The organic layer was washed with brine, dried over Na2SO4, and concentrated. The residue was subjected to chromatography on silica gel, eluting with CH2Cl2/MeOH (10% cNH3.H2O) to the expected product in 50-80% yield. 1H NMR (400 MHz, CD3CN) δ 11.0 (br s, 2H), 9.25 (br s, 1H), 8.31 (s, 1H), 7.99 (d, J=2.4 Hz, 2H), 7.64 (d, J=7.6 Hz, 1H), 7.44 (dt, J=8.4, 0.8 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 7.19-7.10 (m, 3H), 7.00 (ddd, J=7.2, 6.8, 0.8 Hz, 1H), 6.93 (d, J=8.4 Hz, 1H), 4.29 (t, J=5.6 Hz, 2H), 4.09 (s, 2H), 3.07 (t, J=6.0 Hz, 2H), 2.00 (pentalet, J=5.8 Hz, 2H).

reactant | 3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine | 1 equiv | ClC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCCCN)NC=1C=CC(=CC14)Cl | C21H17Cl2N3O
reactant | 1H-indole-3-carbaldehyde | 1 equiv | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | NaBH(OAc)3 | 2 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HOAc | 2-3 equiv | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-((1H-indol-3-yl)methyl)-3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine | 50-80% yield | N1C=C(C2=CC=CC=C12)CNCCCOC1=C2C(=CC=3C4=CC(=CC=C4NC13)Cl)C=1C=C(C=CC1N2)Cl | C30H24Cl2N4O
